US07381849B1
Synthesis of 2,3,3′,4′-tetramethylbenzophenone (4)
To a 250 ml 3-necked round-bottom flask, 2,3-dimethylphenylboronic acid (3.6 g. 24 mmol). 3,4-dimethylbenzoic acid (3.0 g. 20 mmol), a selected palladium catalyst (0.6 mmol), dimethyl dicarbonate (2.7 g. 30 mmol) and potassium carbonate (6.22 g. 45 mmol) were mixed with 150 ml of dry dioxane. The reaction mixture was heated at 80° C. overnight to become a viscous reaction mixture. 20 ml of water was added to dissolve the heterogeneous reaction mixture, and dioxane was evaporated to dryness. The aqueous solution was extracted with 20 ml of ethyl acetate, dried over anhydrous magnesium sulfate and then evaporated to dryness. The crude product was purified by silica gel column chromatography eluted by hexane/ethyl acetate=20/80 to afford 2.0 g (33%) of the product.

reactant | 2,3-dimethylphenylboronic acid | 24 mmol, 3.6 g | CC1=C(C=CC=C1C)B(O)O | C8H11BO2
reactant | 3,4-dimethylbenzoic acid | 20 mmol, 3.0 g | CC=1C=C(C(=O)O)C=CC1C | C9H10O2
reactant | dimethyl dicarbonate | 30 mmol, 2.7 g | C(=O)(OC)OC(=O)OC | C4H6O5
reactant | potassium carbonate | 45 mmol, 6.22 g | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium | 0.6 mmol | [Pd] | Pd
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 2,3,3′,4′-tetramethylbenzophenone | 2.0 g, 33% | CC1=C(C(=O)C2=CC(=C(C=C2)C)C)C=CC=C1C | C17H18O
